US05627202
N-(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]3(S)-ethyl-proline (2.4 g, 0.008 mol), methionine isopropyl ester hydrochloride (2.21 g, 0.0097 mol), HOBT (1.49 g, 0.0097 mol) and EDC (1.86 g, 0.0097 mol) were dissolved in DMF (15 mL) at room temperature and treated with N-methylmorpholine (3 mL, 0.024 mol). The reaction mixture was stirred overnight at room temperature, then concentrated and partitioned between EtOAc and H2O. The organic layer was washed with aq satd NaHCO3 solution, brine, and dried (MgSO4). The crude product was chromatographed on a flash silica gel column eluting with hexane: EtOAc, 7:3 to give N-(t butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]3(S)-ethyl-prolyl-methionine isopropyl ester.

reactant | 3(S)-ethyl-proline | 0.008 mol, 2.4 g | C(C)[C@@H]1[C@H](NCC1)C(=O)O | C7H13NO2
reactant | methionine isopropyl ester hydrochloride | 0.0097 mol, 2.21 g | Cl.C(C)(C)OC([C@@H](N)CCSC)=O
reactant | HOBT | 0.0097 mol, 1.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.0097 mol, 1.86 g
reactant | N-methylmorpholine | 0.024 mol, 3 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3(S)-ethyl-prolyl-methionine isopropyl ester | C(C)(C)OC([C@@H](NC([C@H]1NCC[C@@H]1CC)=O)CCSC)=O | C15H28N2O3S
